Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
crescendo dyspnea on exertion and chest heaviness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yoM w/ PMHx significant for hypereosinophilic syndrome, NHL, 
CRI baseline Cr around 3, CHF (preserved EF) and CAD with a 
stent to his RCA in ___, CABG ___nd LAD bypass 
and recent cath in ___ with a BMS to RCA in stent restenosis 
presents with 6 days of chest heaviness and dyspnea on exertion. 
 He states that for two days prior to his symptoms he had 
relatively continuous mild chest discomfort without any 
radiation or associated symptoms.  Since then for the following 
6 days he has had dyspnea on exertion associated with a chest 
and neck heaviness as well as a leg heaviness.  Due to the leg 
heaviness he began taking his 80mg po lasix twice daily rather 
than once daily but did not notice a difference in his symptoms. 
 He denies any syncope or presyncope, any nausea or vomiting.   
At his baseline he can have similar symptoms upon walking up 7 
stairs, however now his exertion is very minimal, even with 
showering or walking to the bathroom.

The day of admission he went to his dermatologist office for 
___ surgery for squamous cell CA and was found to have a HR of 
30 and was sent to the ER.  Upon admission his bradycardia had 
resolved however he did have significant ventricular ectopy.

No recent F/C/NS or other symptoms.  He has had a chronic cough 
for years for which he is going to see a pulmonologist for in 
the near future.  
 
Past Medical History:
1.Hypereosinophilic Syndrome--last dose peg interferon on ___, 
next planned in about 2 weeks--Dr. ___  
2.Non-Hodgkins Lymphoma-The patient has hx of low grade lymphoma 
___ years that has been followed without therapy. He underwent a 
bone marrow biopsy in ___ which revealed hypereosinophic 
syndrome and a low grade B-cell lymphoproliferative disorder  
3. Coronary artery disease s/p RCA stenting in ___, BMS ___ 
and CABG ___ circ and lad.  
4. CHF-most recent echo ___ with preserved EF but multiple 
valvular abnormalities including 2+MR, followed by Dr. ___ 
___ 
5. CRI--followed at ___ by Dr. ___ - baseline cr 
2.8-3.1- stage IV CKD
6. Hypertension  
7. Hyperlipidemia  
8. GERD   
9. CVA--in ___ work-up at ___--unclear 
etiology--?secondary to hypereisinophilic syndrome vs. 
cardiac--bilateral occipital infracts: residual deficits of L 
leg paresthesias and scotoma
10. Anemia  
11. Thrombocytopenia  
12. Atrial flutter

 
Social History:
___
Family History:
Mother w/ CAD, MI, CVA; Father w/ CAD, MI, hypercholesterolemia

 
Physical Exam:
VS: T 97.1  BP 150/86  HR 66  RR 18  94% RA.  PULSUS of 4
GEN: NAD, AOX3, appears comfortable
HEENT: MMM, OP clear.  JVP very elevated at 16 without visible 
kussmauls sign.
CARDIAC: RRR, ___ HSM best heart at L sternal border but 
radiates to axilla
PULM: CTAB
ABD: soft, NT, ND, no masses, BS+ 
EXT: WWP, 1+ pedal edema to upper shin bilaterally symmetric
NEURO: CN2-12 normal, normal distal strength and sensation

 
Pertinent Results:
LABS SEE ATTACHED

EKG: sinus rhythm with a rate of 70, normal axis and intervals, 
possible LAE, no LVH, very frequent ventricular ectopy with a 
LBBB morphology - ventricular trigeminy.  ST depressions of 1mm 
in V5 and V6 with TWI in I and aVL which are unchanged from 
prior ECGs.

PORTABLE CXR ___: 
FINDINGS:  Lung volumes are mildly diminished.  No consolidation 
or edema is evident.  Changes consistent with median sternotomy 
and CABG again evident.  Mediastinum is otherwise unremarkable.  
The cardiac silhouette remains top normal for size but stable.  
No effusion or pneumothorax is evident.  Incidental note is made 
of cervical ribs. 
  
IMPRESSION:  No acute pulmonary process.  Stable examination. 

___: 
Lower extremity venous ultrasound is compared to a prior report 
from a study dated ___. 
  
TECHNIQUE:  Grayscale imaging supplemented by duplex 
ultrasonography was 
performed of the left lower extremity. 
  
FINDINGS:  The femoropopliteal system is widely patent and has 
normal flow on color encoded images.  There are normal Doppler 
waveforms with adequate waveform response to augmentation.  The 
posterior tibial and peroneal veins are likewise patent. 
  
IMPRESSION:  No evidence of DVT of the left lower extremity, no 
significant interval change compared to prior imaging. 

ECHO ___: 
The left atrial volume is markedly increased. The left atrium is 
dilated. The right atrium is markedly dilated. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) are mildly thickened. There is a minimally 
increased gradient consistent with minimal aortic valve 
stenosis. Mild to moderate (___) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild to moderate (___) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is borderline pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: Frequent ectopy. Mild to moderate mitral and aortic 
regurgitation. Normal regional and global biventricular systolic 
function. 

STRESS MIBI (PHARMACOLOGIC) ___:
EXERCISE RESULTS 

 
  
RESTING DATA 
EKG:  SINUS W/ VEA, DIFFUSE STTW ABNS   
HEART RATE:  68 BLOOD PRESSURE:  140/80 
  
PROTOCOL  /  
STAGE TIME SPEED ELEVATION WATTS HEART BLOOD RPP 
  (MIN) (MPH) (%)   RATE PRESSURE   
I ___ 0.142MG KG/MIN   75 130/78 9750 
  
TOTAL EXERCISE TIME:  4 % MAX HRT RATE ACHIEVED:  45 
 
 
  
INTERPRETATION: ___ year old man (h/o hypereosinophilic syndrome; 
CAD 
and s/p CABG in ___ PCI to RCA in ___ and BMS to RCA in 
___ 
was referred to the lab for the evaluation of chest pain and 
shortness 
of breath. The patient was infused with 0.142 mg/kg/min of 
Persantine 
over 4 minutes. The patient denied any arm, neck, back, or chest 

discomfort throughout the procedure. Post-infusion, the patient 
did 
report nausea and mild lightheadedness which resolved following 
the 
administration of 125 mg aminophylline IV. In the presence of 
diffuse 
ST-T wave changes at baseline, no additional changes were noted. 

The rhythm was sinus with frequent isolated VPBs noted 
throughout the 
procedure with short runs of ventricular trigeminy. The 
hemodynamic 
response to the infusion was appropriate. 
  
IMPRESSION: Atypical persantine-induced symptoms in the absence 
of ECG 
changes from baseline. Ventricular ectopy as described. Nuclear 
report 
sent separately. 
  
 
SIGNED:  ___ 
 
RADIOPHARMECEUTICAL DATA: 
   11.0 mCi Tc-99m Sestamibi Rest ___ 
   29.1 mCi Tc-99m Sestamibi Stress ___ 
HISTORY: ___ year old man with CAD s/p CABG (___), presents with 
dyspnea on  
exertion.  
  
SUMMARY OF DATA FROM THE EXERCISE LAB:  
Dipyridamole was infused intravenously for 4 minutes at a dose 
of 0.142 
mg/kg/min.  
  
METHOD:  
Resting perfusion images were obtained with Tc-99m sestamibi.  
Tracer was 
injected approximately 45 minutes prior to obtaining the resting 
images.  
Following resting images and two minutes following intravenous 
dipyridamole, 
approximately three times the resting dose of Tc-99m sestamibi 
was administered 
intravenously.  Stress images were obtained approximately 45 
minutes following 
tracer injection.  
Imaging protocol: Gated SPECT.  
This study was interpreted using the 17-segment myocardial 
perfusion model.  
  
INTERPRETATION:   
Left ventricular cavity size is at the upper limits of normal 
and stable.  
Rest and stress perfusion images reveal possible minimal 
reversible defect in 
the inferolateral wall, which has improved compared to the 
previous study of 
___.  
  
Gated images reveal unchanged wall motion with mild septal 
hypokinesis 
consistent with history of CABG.  
  
The calculated left ventricular ejection fraction is 61%, 
improved from 48% on 
___.  
  
IMPRESSION:  1.  Probably normal study with improvement in the 
mild reversible 
inferolateral wall defect seen on the prior study.  2.  Normal, 
improved LV 
systolic function (EF 61%), with unchanged wall motion 
consistent with prior 
CABG.  
  

___, M.D.
 

___, M.D.
 
Approved: WED ___ 4:52 ___ 

 
Brief Hospital Course:
SHORTNESS OF BREATH: the patient initially had a complaint of 
dyspnea on exertion which seemed to be crescendo and given his 
atypical symptoms which could have been anginal in nature and 
his high cardiac risk he was started on a heparin drip until he 
ruled out for MI.  Once he ruled out he was stressed with a 
p-MIBI which revealed an improvement in the mild reversible 
inferolateral defect he had prior to his last cath, no other 
abnormalities.  He also had an echo which was unchanged from ___ 
year ago.  He had an ultrasound of his L leg given assymetric 
edema which was negative.  His ambulatory O2 sat was 94% and he 
was never hypoxic throughout his stay.  His CXR was negative.  
Upon further discussion his shortness of breath seemed to 
improve.  It is unclear if increasing his lasix to 80mg po bid 
as the patient had done for 4 days prior to coming to the 
hospital is what aided in this relief or not.  He states that he 
has a fullness to his neck upon exertion so it was important to 
rule out cardiac ischemia for this but beyond that it is unclear 
what could be causing these symptoms, he does have tricuspid 
regur and perhaps this is giving him the sensation of venous 
congestion in his neck.

He also has a chronic cough and given his lymphoma it would be 
worth getting PFTs and a high resolution CT scan.  The patient 
will follow up with pulmonary at ___ along with PFTs as an 
outpatient.  This is scheduled for 1 week from discharge.  He 
was discharged on his home dose of lasix 80mg po daily.

CKD- stage IV, followed by ___, baseline Cr 2.8-3.1, 
within baseline.  Unclear etiology, perhaps due to 
hypereosinophilic syndrome (thought to have renal involvement 
but no known cardiac involvement in this patient)

 
Medications on Admission:
1.  Aspirin 325 mg daily.
2.  Atenolol 50 mg daily.
3.  Aldactone 25 mg daily.
4.  Allopurinol ___ mg every other day.
5.  Lasix 80 mg daily.
6.  Bactrim double Strength one tablet three times for week.
7.  Prednisone 2.5 mg daily.
8.  Interferon injections every three weeks (last interferon 3 
weeks ago)
9. Protonix 40mg po daily
10. Simvastatin 40 mg daily.
 
Discharge Medications:
1. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
2. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Tablet(s) 
3. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. Prednisone 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO TUES, THURS, ___ ().  
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
7. interferon q3weeks per outpatient oncologist
8. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO TUES, 
THURS, ___ ().  
9. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO ___ 
___ ().  
10. Furosemide 80 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Bradycardia related to medication effect
Dyspnea on exertion

 
Discharge Condition:
Stable

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: 2 liters per day.

Please call your doctor or return to the emergency room if you 
experience any chest pain, worsening shortness of breath or any 
symptoms that concern you.
 
Followup Instructions:
___